Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[C:1]=[C:2]([H:3])[H:4].[C:5]=[C:6]([H:7])[H:8],0.62524238304
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:7][H:8]>>[H:8].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:7],5.974953771900001
[H:1][O:2][C:3]([H:4])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.04839722041
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:11][H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],8.5182514637
[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-3.1634627054
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4],3.08663257057
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5],4.241342959730002
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[H:1][C:2][C:3]([H:4])=[C:5]([O:7][H:8])[O:9][H:10].[H:6],3.60413464688
[C:7][H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:9][H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7][H:8])=[C:9][H:10],-3.0170996151
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.19877091861
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2][O:3][H:4],1.3553386238
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.73851880181
[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.06944791003
[H:1][O:2][C@:3]1([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],1.82646223623
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.79441494302
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:6],5.08202674504
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[O:1],4.1036636457699975
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.98696497294
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10],5.98967201862
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.77045804879
[H:1].[O:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.55841970944
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.92606455581
[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4][O:6][C:7]([H:8])[C:9]1([H:10])[H:11].[H:5],4.81744525735
[H:1][C:2]([H:3])[C:4]1=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1>>[H:1][C:2]([H:3])[C:4]#[C:11][C:5][O:6][C:7]([H:8])([H:9])[H:10],-0.6954962243
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.96892461753
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])=[O:6].[C:7]([H:8])([H:9])[H:10],1.2542517602
[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-2.01362449718
[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.079671043359999
[C:1][C:2]#[C:3][C:5]([H:6])=[C:7]([H:8])[H:9].[O:4]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-4.84701876876
